US06297260B1
48d. (tert-Butoxy)-N-(2-hydroxyethyl)-N-methylcarboxamide
N-Methylaminoethanol (5.1 g, 67.7 mmol) was dissolved in THF (70 mL) and di-tert-butyl dicarbonate (15.7 g, 72 mmol) was added. The resulting solution was stirred at room temperature for 18 hours. The volatiles were evaporated and the residue was dried under vacuum overnight to give 11.2 g (95%) of the title compound. 1H NMR (300 MHz, CDCl3) δ 3.74 (t, 2H), 3.38 (t, 2H), 2.91 (s, 3H), 2.21 (s, 1H), 1.46 (s, 9H).

reactant | N-Methylaminoethanol | 67.7 mmol, 5.1 g | CNC(C)O | C3H9NO
reactant | di-tert-butyl dicarbonate | 72 mmol, 15.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 70 mL | C1CCOC1 | C4H8O
product | (tert-Butoxy)-N-(2-hydroxyethyl)-N-methylcarboxamide | 11.2 g, 95% | C(C)(C)(C)OC(=O)N(C)CCO | C8H17NO3
